US06521666B1
Ra—Ni (0.4 mL of 50% dispersion in water) was added to a solution of N-(2-chloro-4-nitrobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (1.04 g) in anhydrous MeOH (50 mL) and the mixture was stirred at room temperature under H2 atmosphere for 3.5 h. The mixture was then filtered over Celite and washed with MeOH. The filtrate was evaporated and the residue was purified by flash column chromatography (silica gel; eluent: CH2Cl2/MeOH 100:1 to 20:1) to give N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (887 mg). ESMS: m/z 439 (MH+). The product obtained above was also prepared via the coupling of 4-(2-methoxyphenyl)-L-phenylalanine methyl ester hydrochloride with 4-amino-2-chlorobenzoic acid using EDC and HOBT in an analogous manner as described in Example 2.

reactant | N-(2-chloro-4-nitrobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 1.04 g | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C24H21ClN2O6
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Ra—Ni | 0.4 mL | [Ni] | Ni
product | N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 887 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C24H23ClN2O4
